US08895313B2
4-(Dimethylamino)-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide
Prepared as described in the Amide Coupling section using 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline (70 mg, 0.314 mmol) and 4-dimethylaminobenzoyl chloride (58 mg, 0.314 mmol) in dry pyridine (5 ml) to give the title compound (63 mg, 54%) as a pale yellow solid after work-up and flash chromatography (20:1 DCM/MeOH).

reactant | 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline | 0.314 mmol, 70 mg | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(N)C=C2 | C14H13N3
reactant | 4-dimethylaminobenzoyl chloride | 0.314 mmol, 58 mg | CN(C1=CC=C(C(=O)Cl)C=C1)C | C9H10ClNO
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4-(Dimethylamino)-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide | 63 mg, 54% | CN(C1=CC=C(C(=O)NC2=CC=C(C=C2)C=2N=C3N(C=C(C=C3)C)C2)C=C1)C | C23H22N4O
